Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine and Iodide Containing Products
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with cirrhosis decompensated by variceal bleed/HE/ascites,
Hep C, HIV (CD4 291 on ___, presenting with lower abdominal
pain.

History is obtained from patient and daughter (over the phone).
Of note he has had "over 100" admissions to ___, per their
medical records department. Most recent admission was from
___ for epigastric pain found to have influenza A, treated
with Tamiflu, pred burst, albuterol. He also received
ciprofloxacin for E. faecalis UTI. Per discharge summary from
that admission, 1 week prior to that admission he binged on ETOH
and cocaine and stopped his medications because he was upset 
that
his wife separated with him.

Two to three days ago, he reports that he had onset of lower
abdominal pain. He says the pain is predominantly in the lower
quadrants (of note per ED history he said pain was in RUQ
earlier). He had diarrhea yesterday, and nausea. At first 
reports
vomiting, then later denies this. No hematemesis. Bowel 
movements
have since normalized with soft formed stool. No melena or blood
in stool. No fevers/chills. 

Per ED history he reports last ETOH and cocaine two weeks ago,
though he denies this on arrival to floor.

In the ED, initial VS were:
98.2 60 106/65 20 94% RA 
 
Exam notable for RUQ tenderness, positive ___ sign.

Labs were notable for:
WBC 4.2, Hgb 12.1, Plt 57
Cr 0.7
Lactate 2.1
INR 1.4
ALT 24, AST 52, TBili 2.2, AlkP 207
Alb 2.7
Lipase 50

UTox negative. UA with sm blood, 0 RBC, 1 WBC

RUQUS was performed without clear etiology for his symptoms.

He received 
___ 15:58 IV Morphine Sulfate 2 mg 
___ 15:58 IV Ondansetron 4 mg 
___ 16:31 IVF  NS ( 1000 mL ordered)
___ 17:58 IV Morphine Sulfate 2 mg 

Transfer VS were
97.7 63 127/78 18 98% RA 
 
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports pain is improved after
IV morphine. He is hungry and wishes to eat. No other acute
complaints.
 
Past Medical History:
HIV
Cirrhosis
Variceal bleed s/p banding ___ year ago
Pre-diabetes
Asthma
Cocaine abuse
ETOH abuse
Heroin (IVDU)
History of bacterial meningitis (___)
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS:  97.5, 137/83, 58, 18, 99%RA
GENERAL: Obese, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM. Poor dentition.
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: Obese, +BS, tender to palpation in RLQ and LLQ, no
rebound/guarding.
EXTREMITIES: LLE>RLE 1+ edema (baseline per patient), no calf
tenderness. 
NEURO: CN II-XII intact. Mild asterixis. Oriented to self,
hospital, date, year and day of week, but not month.
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes 

DISCHARGE PHYSICAL EXAM:
==========================
VS:  97.5 PO 120 / 80 R Sitting 60 18 98 RA 
GENERAL: Obese man, lying comfortably in bed, alert and awake, 
in NAD  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
MMM. Poor dentition.
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Obese, +BS, minimally tender to palpation in RLQ and 
LLQ, guarding, no rebound.
EXTREMITIES: LLE>RLE 1+ edema (baseline per patient), no calf 
tenderness. 
NEURO: CN II-XII intact. Minimal asterixis.
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
=======================
 
Pertinent Results:
ADMISSION LABS:
================

___ 01:27PM BLOOD WBC-4.2 RBC-4.19* Hgb-12.1* Hct-37.3* 
MCV-89 MCH-28.9 MCHC-32.4 RDW-17.9* RDWSD-59.0* Plt Ct-57*
___ 01:27PM BLOOD Neuts-50.9 ___ Monos-14.8* 
Eos-2.1 Baso-0.7 Im ___ AbsNeut-2.14 AbsLymp-1.30 
AbsMono-0.62 AbsEos-0.09 AbsBaso-0.03
___ 05:52PM BLOOD ___ PTT-41.2* ___
___ 01:27PM BLOOD Glucose-119* UreaN-5* Creat-0.7 Na-136 
K-3.9 Cl-108 HCO3-22 AnGap-10
___ 01:27PM BLOOD ALT-24 AST-52* AlkPhos-207* TotBili-2.2*
___ 01:27PM BLOOD Albumin-2.7* Calcium-8.1* Phos-2.9 Mg-1.9
___ 01:27PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:37PM BLOOD Lactate-2.1*
___ 12:30PM URINE Color-Yellow Appear-Hazy Sp ___
___ 12:30PM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 12:30PM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-4
___ 12:30PM URINE CastUnk-0
___ 12:30PM URINE AmorphX-OCC
___ 12:30PM URINE Mucous-RARE
___ 12:55PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS:
===============
___ 06:25AM BLOOD WBC-3.7* RBC-4.04* Hgb-11.8* Hct-36.6* 
MCV-91 MCH-29.2 MCHC-32.2 RDW-18.4* RDWSD-61.4* Plt Ct-48*
___ 06:25AM BLOOD ___
___ 06:25AM BLOOD Glucose-179* UreaN-6 Creat-0.9 Na-139 
K-3.9 Cl-110* HCO3-24 AnGap-9
___ 06:25AM BLOOD ALT-22 AST-49* AlkPhos-158* TotBili-2.0*
___ 06:25AM BLOOD Calcium-7.6* Phos-2.5* Mg-1.9

NOTABLE LABS:
=============

___ 01:27PM BLOOD TotBili-2.2*
___ 06:00AM BLOOD TotBili-2.5*
___ 06:25AM BLOOD TotBili-2.0*

___ 06:00AM BLOOD  WBC-4.4 Lymph-26 Abs ___ CD3%-51 
Abs CD3-580 CD4%-28 Abs CD4-323* CD8%-20 Abs CD8-226 
CD4/CD8-1.43

IMAGING:
========
___ ABD & PELVIS W/O CON  
1. Cirrhotic liver with stigmata of portal hypertension as 
evidenced by splenomegaly and recanalized umbilical vein.
2. No CT findings to explain the patient's symptoms.
   
___ OR GALLBLADDER US
1. Cirrhotic liver and splenomegaly, without evidence of focal 
lesions.
2. Gallbladder-wall thickening and edema likely secondary to 
chronic liver disease.

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with cirrhosis decompensated by 
variceal bleed, hepatic encephalopathy and ascites, Hep C, HIV 
(CD4 291 on ___ and polysubstance abuse who presented with 
lower abdominal pain of unclear etiology, found to have 
hyperbilirubinemia. He had a RUQUS and CT abdomen without 
contrast which showed no evidence of any acute processes that 
could explain his pain or uptrending bilirubin. He was given 
tylenol for pain control with limited effect. Narcotics were 
avoided given the patient's polysubstance abuse history with a 
recent admission to ___ for EtOH and cocaine 
intoxication. He was also noted to have hepatic encephalopathy 
with mild asterixis on exam. He was started on lactulose, 
titrated to ___ BM per day. Patient's diuretics initially held 
pending imaging, then were held for low SBPs. They were 
restarted at time of discharge. 

# Abdominal pain: Patient initially reported in ED as RUQ pain, 
but upon admission to floor patient with LLQ and RLQ pain. No 
peritoneal signs. Abd ultrasound without portal venous 
thrombosis or overt acute hepatobiliary pathology. CT abd/pelvis 
without evidence of acute process to explain symptoms. No 
ascites so not risk for SBP. Lipase and imaging not suggestive 
of pancreatitis. However, patient was noted to have 
hyperbilirubinema of unclear etiology (likely due to chronic 
liver disease). Patient was given low dose Tylenol PRN for pain 
relief with minimal improvement. On day of discharge patient 
reported improvement in abdominal pain and his 
hyperbilirubinemia was improving. 

# Hepatic encephalopathy: Patient with mild asterexis on 
admission exam. He was started on lactulose, titrated to 3 bowel 
movements per day. His asterexis improved and had resolved by 
time of discharge. 

# Cirrhosis: likely secondary to hep C and alcohol; 
decompensated by encephalopathy, and hx of variceal bleeding. 
MELD-Na 16 on admission. INR at baseline 1.4. Bilirubin 1.5 at 
last discharge, now increased to 2.2. Diuretics was originally 
held given concern for acute process then patient with an 
episode of relative hypotension. However, by time of discharge 
patient's pressures were stabilized and diuretics were 
restarted. 

# Alcohol and cocaine abuse: On history patient denied recent 
use, though patient with recent admission to ___ 
secondary to intoxication. Per ___ records, relapse triggered 
by wife separating from him. Patient was placed on a CIWA scale 
q4h without scoring. He was also given empiric thiamine and 
folate. Social work was also consulted.

#Insomnia: patient with Seroquel prescription, although not 
filled as outpatient. He was started on Seroquel 25mg qHS PRN 
but was held after patient noted to be somnolent. 

Transitional Issues:
===============
[] Patient with poor medication compliance. Reportedly stopped 
taking medications, including antiretroviral medications, during 
last alcohol and cocaine "binge." Please follow up with patient 
on medication compliance. 
[] Patient with non-specific lower abdominal pain. Imaging and 
work-up negative for any acute process that could explain his 
symptoms. Please follow up patient's abdominal pain. 
[] Patient's lasix and eplerenone held during admission for low 
SBPs (90s). They were restarted at discharge. 

CODE STATUS: FULL
CONTACT: ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Furosemide 40 mg PO BID 
2. Dolutegravir 50 mg PO DAILY 
3. Propranolol 20 mg PO BID 
4. Eplerenone 50 mg PO DAILY 
5. Descovy (emtricitabine-tenofovir alafen) 200-25 mg oral DAILY 

6. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
7. QUEtiapine Fumarate 25 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
3.  Lactulose 30 mL PO TID 
RX *lactulose 20 gram/30 mL 30 mL by mouth Three times per day 
Refills:*3 
4.  Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB  
5.  Descovy (emtricitabine-tenofovir alafen) 200-25 mg oral 
DAILY  
6.  Dolutegravir 50 mg PO DAILY  
7.  Eplerenone 50 mg PO DAILY  
8.  Furosemide 40 mg PO BID  
9.  Propranolol 20 mg PO BID  
10.  QUEtiapine Fumarate 25 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Hyperbilirubinemia
Hepatic Encephalopathy 

SECONDARY DIAGNOSES:
====================
HIV
Cirrhosis
Polysubstance Abuse
Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were recently hospitalized at ___ 
___. Below is a description of your hospital stay.

WHY YOU WERE HERE?
===================
- You were admitted for abdominal pain. 

WHAT HAPPENED WHILE YOU WERE HERE?
===================================
- You had a CT scan and ultrasound of your abdomen which did not 
show anything that could explain your pain. 
- You were given tylenol to help control your pain.
- You were given lactulose to help you have bowel movements and 
decrease confusion cause by your liver disease. 

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
============================================
- Take all of your medications as prescribed. 
- Follow up with your primary care doctor about your abdominal 
pain

It was a pleasure taking care of you.

Your ___ Team

 
Followup Instructions:
___